US07345056B2
9-Methyl-3-(pyrrolidin-1-yl)-9-azabicyclo[3.3.1]non-3-ene
To pseudo-pelletierine (1.5 g, 9.8 mmol) in toluene (75 mL) was added pyrrolidine (4.9 mL, 58.75 mmol). TiCl4 (0.66 mL, 6.0 mmol) in toluene (10 mL) was then added to the mixture at −5° C. The reaction mixture was left to warm up to rt and stirred for 2 days. The mixture was filtered and the filtrate was concentrated to a residue and toluene (100 mL) was added and the mixture was filtered again. The filtrate was concentrated to a residue to afford the product (2.0 g, 100%) as yellow oil.

reactant | pseudo-pelletierine | 9.8 mmol, 1.5 g | CN1[C@@H]2CCC[C@H]1CC(=O)C2 | C9H15NO
reactant | pyrrolidine | 58.75 mmol, 4.9 mL | N1CCCC1 | C4H9N
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | 6.0 mmol, 0.66 mL | Cl[Ti](Cl)(Cl)Cl
product | 9-Methyl-3-(pyrrolidin-1-yl)-9-azabicyclo[3.3.1]non-3-ene | 2.0 g, 100% | CN1C2CC(=CC1CCC2)N2CCCC2 | C13H22N2
